US06329397B1
A mixture of 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-5-methyl-piperidine-2-carboxylic acid methyl ester (0.047 g, 0.11 mmol), p-toluenesulfonic acid (0.010 g, 0.05 mmol) and toluene (2.0 mL) was heated to 90° C. for 2 h. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered and concentrated in vacuo, giving 0.035 g of 5-(4-Benzyloxy-benzenesulfonyl)-1-methyl-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one as a colorless oil:

reactant | 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-5-methyl-piperidine-2-carboxylic acid methyl ester | 0.11 mmol, 0.047 g | COC(=O)C1N(CC(CC1)(C)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H25NO6S
reactant | p-toluenesulfonic acid | 0.05 mmol, 0.010 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-Benzyloxy-benzenesulfonyl)-1-methyl-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one | 0.035 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C2C(OC(C1)(CC2)C)=O | C20H21NO5S
